US08058045B2
Benzyl 4-((5-bromo-2-pivalamidopyridin-4-ylamino)methyl)piperidine-1-carboxylate
Two capped microwave reaction vials each containing a solution of N-(5-bromo-4-chloropyridin-2-yl)pivalamide (0.55 g, 1.89 mmol), benzyl 4-(aminomethyl)piperidine-1-carboxylate (1.07 g, 2 eq.) and triethylamine (0.80 mL, 3 eq.) in NMP (3.8 mL) were heated at 210° C. by microwave irradiation for 1.5 hr and then allowed to cool. The contents of the two vials were combined and partitioned between EtOAc (15 mL) and sat. NaHCO3 (150 mL). The organic layer was retained whilst the aqueous was further extracted with EtOAc (15 mL). The organic extracts were combined, washed with brine (50 mL), dried (MgSO4) and concentrated. The crude material was purified by chromatography on a 40+M Biotage silica column, eluting with a gradient of EtOAc in dichloromethane, to give the title compound as a clear oil (0.83 g, 43%)

reactant | N-(5-bromo-4-chloropyridin-2-yl)pivalamide | 1.89 mmol, 0.55 g | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)Cl | C10H12BrClN2O
reactant | benzyl 4-(aminomethyl)piperidine-1-carboxylate | 1.07 g, 2 eq. | NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
reactant | triethylamine | 0.80 mL, 3 eq. | C(C)N(CC)CC | C6H15N
solvent | NMP | 3.8 mL | CN1CCCC1=O | C5H9NO
product | Benzyl 4-((5-bromo-2-pivalamidopyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.83 g, 43% | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C24H31BrN4O3
